US04668589
This material is prepared according to the method of Kober et al., Inorganic Chemistry, Vol. 5, p. 2239 (1966), which is incorporated herein by reference, by treatment of hexachlorocyclotriphosphazene with p-nitrophenol and potassium hydroxide. Hexakis(4-nitrophenoxy)-cyclotriphosphazene having a melting point of 261°-264° C. is obtained (lit. m.p. 264° C.). The infrared spectrum (in KBr), (cm-1) is 1589 (aromatic), 1522 and 1348 (asymmetrical and symmetrical nitro group stretching) and 1203, 1182 and 1163 (cyclotriphosphazene P=N).

reactant | hexachlorocyclotriphosphazene | ClP1(=NP(=NP(=N1)(Cl)Cl)(Cl)Cl)Cl | Cl6N3P3
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | potassium hydroxide | [OH-].[K+]
product | Hexakis(4-nitrophenoxy)-cyclotriphosphazene | [N+](=O)([O-])C1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=C(C=C2)[N+](=O)[O-])OC2=CC=C(C=C2)[N+](=O)[O-])(OC2=CC=C(C=C2)[N+](=O)[O-])OC2=CC=C(C=C2)[N+](=O)[O-])OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C36H24N9O18P3
